US05753664
1-[4-(4-Chlorobenzoyl)benzyl]-4-methoxy-6-methyl-imidazo[4,5-d]pyridazin-7(6H)-one
In methanol (5 ml) was dissolved 1-[4-(4-chloro-benzoyl)benzyl]-4-chloro-6-methylimidazo[4,5-d]pyridazin-7(6H)-one (72 mg) followed by addition of 28% sodium methoxide/methanol (1.0 ml), and the mixture was refluxed for 5 hours. To this reaction mixture was added a large quantity of water and the resulting crystals were rinsed with water and dried under reduced pressure to provide 50 mg (yield 70%) of the title compound. 1H-NMR (CD3OD) δ: 3.7.1(3H,s), 4.00(3H,s), 5.85(2H,s), 7.50(2H,d,J=8.6Hz), 7.52(2H,d,J=8.8Hz), 7.74(2H,d,J=8.8Hz), 7.75(2H,d,J=8.6Hz), 8.42(1H,s).

reactant | 1-[4-(4-chloro-benzoyl)benzyl]-4-chloro-6-methylimidazo[4,5-d]pyridazin-7(6H)-one | 72 mg | ClC1=CC=C(C(=O)C2=CC=C(CN3C=NC4=C3C(N(N=C4Cl)C)=O)C=C2)C=C1 | C20H14Cl2N4O2
reactant | sodium methoxide methanol | 1.0 ml | C[O-].[Na+].CO
reactant | water | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | 1-[4-(4-Chlorobenzoyl)benzyl]-4-methoxy-6-methyl-imidazo[4,5-d]pyridazin-7(6H)-one | 50 mg, yield 70% | ClC1=CC=C(C(=O)C2=CC=C(CN3C=NC4=C3C(N(N=C4OC)C)=O)C=C2)C=C1 | C21H17ClN4O3
